*
*
*
*                       LINUX           Thu Nov 20 13:28:27 2025
*
*
*
*  PROGRAM  advgen
*
*  Name           : advgen - Quantus QRC - (64-bit)
*  Version        : 15.2.7-s638
*  Build Date     : Wed Jan  4 18:11:53 PST 2017
*
*  HSPICE LIBRARY
*
*
*

*
.SUBCKT TSPCFF VDD! VSS! CK D QQ
*
*
*  caps2d version: 10
*
*
*       TRANSISTOR CARDS
*
*
MXclkinv/Mmn0	CKb#11	CK#2	VSS!#6	VSS!#3	g45n1svt	L=4.5e-08
+ W=1.45e-07
+ AD=2.03e-14	AS=2.03e-14	PD=5.7e-07	PS=5.7e-07
+ NRD=3.388E-01	NRS=3.388E-01
+ scc=0.000309076 scb=0.0131402 sca=12.5109 sb=1.4e-07 sa=1.4e-07
Mmn3	Qb#6	y	VSS!#8	VSS!#3	g45n1svt	L=4.5e-08
+ W=1.45e-07
+ AD=2.32e-14	AS=2.32e-14	PD=5.9e-07	PS=5.9e-07
+ NRD=3.388E-01	NRS=3.388E-01
+ scc=2.1811e-05 scb=0.00346364 sca=6.59771 sb=3.45e-07 sa=1.4e-07
Mmn2	y#7	CKb#6	VSS!#8	VSS!#3	g45n1svt	L=4.5e-08
+ W=1.45e-07
+ AD=2.03e-14	AS=2.03e-14	PD=5.9e-07	PS=5.9e-07
+ NRD=3.388E-01	NRS=3.388E-01
+ scc=2.16281e-05 scb=0.00316007 sca=6.15549 sb=1.4e-07 sa=3.45e-07
Mmn1	a	D#2	VSS!#7	VSS!#3	g45n1svt	L=4.5e-08
+ W=1.45e-07
+ AD=8.7e-15	AS=8.7e-15	PD=4.9e-07	PS=4.9e-07
+ NRD=2.000E-01	NRS=3.388E-01
+ scc=2.18715e-05 scb=0.00351544 sca=6.65575 sb=2.45e-07 sa=1.4e-07
Mmn4	x#3	CKb#7	a	VSS!#3	g45n1svt	L=4.5e-08
+ W=1.45e-07
+ AD=2.03e-14	AS=2.03e-14	PD=4.9e-07	PS=4.9e-07
+ NRD=3.388E-01	NRS=2.000E-01
+ scc=2.33598e-05 scb=0.00413523 sca=7.21705 sb=1.4e-07 sa=2.45e-07
MXqinv/Mmn0	QQ#1	Qb	VSS!#1	VSS!#3	g45n1svt	L=4.5e-08
+ W=2.6e-07
+ AD=3.64e-14	AS=3.64e-14	PD=8e-07	PS=8e-07
+ NRD=2.046E-01	NRS=2.046E-01
+ scc=0.00219352 scb=0.027494 sca=23.7936 sb=1.4e-07 sa=1.4e-07
MXclkinv/Mmp0	CKb#10	CK#1	VDD!#6	VDD!#3	g45p1svt	L=4.5e-08
+ W=2.15e-07
+ AD=3.01e-14	AS=3.01e-14	PD=7.1e-07	PS=7.1e-07
+ NRD=2.353E-01	NRS=2.353E-01
+ scc=0.00236439 scb=0.030473 sca=27.4166 sb=1.4e-07 sa=1.4e-07
Mmp3	c	y#3	VDD!#8	VDD!#3	g45p1svt	L=4.5e-08
+ W=2.15e-07
+ AD=1.29e-14	AS=1.29e-14	PD=6.3e-07	PS=6.3e-07
+ NRD=1.349E-01	NRS=2.353E-01
+ scc=0.000100355 scb=0.00880481 sca=11.3805 sb=2.45e-07 sa=1.4e-07
Mmp5	Qb#7	CKb#5	c	VDD!#3	g45p1svt	L=4.5e-08
+ W=2.15e-07
+ AD=3.01e-14	AS=3.01e-14	PD=6.3e-07	PS=6.3e-07
+ NRD=2.353E-01	NRS=1.349E-01
+ scc=9.87233e-05 scb=0.00815874 sca=10.8044 sb=1.4e-07 sa=2.45e-07
Mmp4	y#6	x	b	VDD!#3	g45p1svt	L=4.5e-08
+ W=2.15e-07
+ AD=1.29e-14	AS=1.29e-14	PD=6.3e-07	PS=6.3e-07
+ NRD=2.353E-01	NRS=1.349E-01
+ scc=9.84553e-05 scb=0.00778243 sca=10.2794 sb=4.5e-07 sa=1.4e-07
Mmp2	b	CKb	VDD!#7	VDD!#3	g45p1svt	L=4.5e-08
+ W=2.15e-07
+ AD=3.44e-14	AS=3.44e-14	PD=6.5e-07	PS=6.5e-07
+ NRD=1.349E-01	NRS=2.353E-01
+ scc=9.84777e-05 scb=0.00786563 sca=10.4291 sb=3.45e-07 sa=2.45e-07
Mmp1	x#5	D#1	VDD!#7	VDD!#3	g45p1svt	L=4.5e-08
+ W=2.15e-07
+ AD=3.01e-14	AS=3.01e-14	PD=7.3e-07	PS=7.3e-07
+ NRD=2.353E-01	NRS=2.353E-01
+ scc=9.96516e-05 scb=0.00859678 sca=11.2136 sb=1.4e-07 sa=4.5e-07
MXqinv/Mmp0	QQ#2	Qb#4	VDD!#1	VDD!#3	g45p1svt	L=4.5e-08
+ W=3.9e-07
+ AD=5.46e-14	AS=5.46e-14	PD=1.06e-06	PS=1.06e-06
+ NRD=1.364E-01	NRS=1.364E-01
+ scc=0.00172236 scb=0.0288355 sca=24.7656 sb=1.4e-07 sa=1.4e-07
*
*
*       RESISTOR AND CAP/DIODE CARDS
*
Rl1	CK#1	CK#2	  280.3349
Rl2	CK#2	CK#3	   93.7687
Rl3	y	y#2	   23.8263
Rl4	y#2	y#3	  236.2442
Rl5	y#3	y#4	   86.0764
Rl6	y#2	y#5	   50.7830
Rl7	x	x#2	   75.0021
Rl8	CKb	CKb#2	  156.5021
Rl9	CKb#2	CKb#3	   83.0817
Rl10	CKb#3	CKb#4	  124.2107
Rl11	CKb#4	CKb#5	   81.9251
Rl12	CKb#3	CKb#6	   84.2969
Rl13	D#1	D#2	  264.9503
Rl14	D#2	D	   87.9995
Rl15	CKb#7	CKb#8	  115.3867
Rl16	Qb	Qb#2	  138.6781
Rl17	Qb#2	Qb#3	   77.2400
Rl18	Qb#2	Qb#4	   67.0634
Rk1	CK	CK#3	2.766E-02
Rk2	CKb#4	CKb#9	   45.2623
Rk3	CKb#9	CKb#10	   62.3479
Rk4	CKb#9	CKb#11	   75.3378
Rk5	y#6	y#4	   62.4760
Rk6	y#7	y#5	   75.3198
Rk8	CKb#2	CKb#8	   45.2235
Rk9	Qb#3	Qb#5	    0.5187
Rk10	Qb#5	Qb#6	   75.6279
Rk11	Qb#5	Qb#7	   62.3510
Rk12	x#3	x#4	   75.7518
Rk13	x#4	x#2	    0.3269
Rk14	x#4	x#5	   62.1660
Rk15	QQ#1	QQ	   38.1535
Rk16	QQ	QQ#2	   20.6667
Rk17	VSS!#1	VSS!#2	   38.0529
Rk18	VSS!#2	VSS!#4	6.518E-02
Rk19	VSS!#4	VSS!#5	9.787E-02
Rk20	VSS!#5	VSS!	    0.2941
Rk21	VSS!	VSS!#6	   75.3400
Rk22	VSS!#2	VSS!#7	   75.3056
Rk23	VSS!#5	VSS!#8	   75.2975
Rk24	VSS!#3	VSS!#4	    6.2000
Rk25	VDD!#1	VDD!#2	   21.1477
Rk26	VDD!#2	VDD!#4	    0.1482
Rk27	VDD!#4	VDD!#5	    0.3046
Rk28	VDD!#5	VDD!	8.027E-02
Rk29	VDD!	VDD!#6	   62.3619
Rk30	VDD!#2	VDD!#7	   62.2792
Rk31	VDD!#5	VDD!#8	   62.3378
Rk32	VDD!#3	VDD!#4	    7.5000
*
*       CAPACITOR CARDS
*
*
C1	CK#3	CKb#9	1.55925E-18
C2	x#4	D#2	4.94932E-19
C3	CKb#8	Qb#3	3.08918E-17
C4	y#2	VDD!#3	1.01191E-17
C5	CKb#11	CK#2	4.60644E-18
C6	VDD!	CK#1	1.83162E-18
C7	y#5	CKb#6	1.05033E-17
C8	y#6	CKb#5	9.54615E-19
C9	VDD!#1	QQ#2	3.91782E-17
C10	VDD!	CK#2	2.7303E-19
C11	Qb	VDD!#3	1.30843E-17
C12	VDD!	y#4	5.92147E-19
C13	Qb#7	y#4	8.0994E-18
C14	VSS!#5	CKb#4	4.86744E-19
C15	Qb#7	CKb#5	2.82404E-18
C16	VSS!#6	CK#2	7.04902E-18
C17	CKb#10	VDD!	4.27492E-18
C18	y#6	VDD!#2	4.38007E-18
C19	CKb#3	VDD!#3	1.22705E-17
C20	CKb#2	Qb#3	8.69563E-18
C21	CKb#7	VDD!#3	4.073E-18
C22	CKb#2	x#3	2.10436E-18
C23	CK#2	y#2	6.51143E-18
C24	VDD!#8	CKb#5	8.57032E-19
C25	x#4	VDD!#2	3.05297E-18
C26	Qb#7	y#3	8.37451E-19
C27	CKb#9	y#2	1.0298E-18
C28	Qb#2	VDD!#3	1.60288E-17
C29	CKb#10	Qb#5	6.6654E-19
C30	Qb#3	x#2	3.95753E-18
C31	VDD!#6	CKb#10	2.14465E-17
C32	VSS!#3	Qb#5	5.61849E-19
C33	VSS!#8	y#7	1.34681E-17
C34	CK	y#4	2.71625E-19
C35	x#5	VDD!#1	1.91692E-17
C36	D#2	VDD!#3	7.24318E-18
C37	VSS!#2	CK#3	2.06439E-19
C38	VDD!#8	y#4	1.01542E-17
C39	CK	VDD!#3	4.90556E-18
C40	VSS!#3	CKb#6	1.26341E-18
C41	QQ#1	Qb#2	2.95778E-18
C42	VDD!#8	y#3	2.90081E-18
C43	CKb#9	VDD!#3	1.05658E-17
C44	CK#3	y	1.4164E-18
C45	VSS!#7	CKb#2	1.64124E-17
C46	x#4	Qb#4	1.52586E-18
C47	y#6	VDD!#3	2.20615E-17
C48	VSS!#5	CKb#6	5.33441E-19
C49	CKb#10	y#3	1.70318E-18
C50	CKb#6	VDD!#3	5.05984E-18
C51	y#4	VDD!#2	1.61933E-18
C52	Qb#5	y#2	1.69736E-18
C53	CKb#9	CK#2	4.71838E-18
C54	QQ#2	Qb#2	3.02587E-18
C55	D#1	Qb#2	1.12588E-18
C56	Qb#6	y#7	6.01366E-19
C57	y#7	CKb#2	6.16742E-19
C58	Qb#5	VDD!#3	6.54648E-18
C59	CK	VSS!#8	3.26084E-18
C60	VDD!#8	CK#1	2.49171E-18
C61	Qb#7	VDD!#3	8.22158E-19
C62	CK	CKb#11	1.07887E-17
C63	VDD!#6	y#4	8.27388E-19
C64	VSS!#5	CK#3	7.92866E-19
C65	y	VDD!#3	3.90197E-18
C66	VSS!#5	Qb#6	5.90112E-18
C67	VSS!#1	Qb#2	5.33159E-19
C68	VSS!#7	x#2	4.48217E-19
C69	VDD!#7	x#5	1.85918E-17
C70	CKb#2	x#2	4.1989E-18
C71	VDD!#2	Qb#4	1.035E-18
C72	D#1	Qb#4	5.62394E-18
C73	CKb#10	CK#1	4.38525E-18
C74	CK	CKb#9	2.0505E-18
C75	x#4	D#1	6.89248E-18
C76	x#4	VDD!#3	7.29925E-18
C77	VSS!#5	CK	1.06756E-17
C78	VSS!#5	y	1.50198E-18
C79	VDD!#6	CK#1	4.20225E-18
C80	Qb#5	CKb#3	4.04658E-18
C81	VDD!#5	y#4	3.37361E-17
C82	Qb#6	VSS!#8	1.35071E-17
C83	VDD!#1	Qb#2	1.16583E-18
C84	y#7	x#2	5.53817E-19
C85	CK#2	VDD!#3	2.33394E-17
C86	CKb	D#1	1.86485E-17
C87	Qb#6	CKb#2	2.54681E-18
C88	VSS!#2	VDD!#3	3.38514E-18
C89	x#3	Qb#2	1.13163E-18
C90	CKb#8	Qb#2	4.83586E-18
C91	x	CKb	3.00735E-17
C92	Qb#3	VDD!#3	1.38672E-17
C93	VDD!#2	D#1	1.66889E-18
C94	x#4	CKb	6.18315E-19
C95	Qb#3	x#4	5.92887E-17
C96	x#4	QQ#2	1.55352E-17
C97	x#4	QQ#1	7.75185E-18
C98	QQ#1	Qb	5.48357E-18
C99	CKb#4	x#2	2.39762E-18
C100	CKb#5	x	3.29149E-18
C101	CKb#10	VDD!#3	2.57249E-18
C102	VSS!#1	QQ#1	2.80879E-17
C103	CKb#8	VDD!#3	8.03985E-18
C104	VSS!#1	Qb	9.07724E-18
C105	VSS!#8	y#5	1.50452E-17
C106	VDD!#1	Qb#3	7.657E-19
C107	y#6	VDD!#7	1.356E-17
C108	y#5	CKb#4	2.80067E-18
C109	VSS!#5	VDD!#3	3.7217E-18
C110	y#3	CKb#5	3.13811E-17
C111	x#3	Qb	3.43823E-18
C112	VDD!#2	CKb	2.44125E-18
C113	CKb#11	Qb#6	3.95557E-17
C114	CKb#8	x#4	1.33675E-18
C115	x#4	VDD!#1	2.19581E-17
C116	Qb#6	y#5	7.95765E-18
C117	VSS!#3	CKb#2	3.39733E-19
C118	x#4	Qb#2	4.83972E-18
C119	x#3	QQ#1	1.783E-17
C120	CKb#9	Qb#5	3.02793E-18
C121	VSS!#1	CKb#7	9.97607E-19
C122	CK#1	y#3	6.92042E-18
C123	VSS!#2	CKb#8	1.53042E-18
C124	QQ#1	VDD!#3	1.53179E-17
C125	VSS!#7	Qb	4.59614E-19
C126	CKb#2	VDD!#3	1.26104E-17
C127	x#3	CKb#7	2.50576E-18
C128	y#7	CKb#3	1.19581E-18
C129	Qb#3	D#1	1.35603E-17
C130	CKb#4	y#4	4.15497E-18
C131	VSS!#5	y#2	1.77277E-18
C132	VSS!#1	x#3	2.63879E-17
C133	Qb#6	CKb#4	4.94093E-18
C134	CKb#8	D#1	4.13386E-18
C135	VSS!#1	VDD!#3	6.31923E-18
C136	CKb#3	x#2	2.06135E-18
C137	x#2	VDD!#3	1.0234E-17
C138	VSS!#3	y#5	1.0261E-18
C139	VSS!#7	CKb#7	7.95948E-19
C140	y#6	CKb#3	1.25937E-18
C141	CKb#2	D#1	1.07815E-17
C142	CKb#9	y#3	2.71122E-18
C143	x#3	D#2	1.1564E-18
C144	CK#1	y#2	8.95364E-19
C145	Qb#5	CKb#2	1.5263E-17
C146	x#3	VDD!#3	4.27679E-18
C147	CKb#7	Qb	4.33434E-18
C148	Qb#7	y#6	1.89697E-17
C149	Qb#5	y#3	4.88844E-19
C150	y#5	VDD!#3	1.88049E-18
C151	Qb#6	y#2	6.21099E-18
C152	VSS!#6	CKb#11	1.34681E-17
C153	VSS!#2	x#3	3.35379E-18
C154	x#4	VDD!#7	7.77477E-18
C155	y#5	CKb#3	1.39624E-17
C156	x#2	CKb	1.90295E-17
C157	Qb#5	x#4	2.7002E-18
C158	VSS!#7	D#2	2.43294E-18
C159	VSS!#8	CK#3	5.42216E-19
C160	VSS!#7	Qb#5	2.62848E-18
C161	CKb#4	VDD!#3	1.03554E-17
C162	D#2	CKb#7	2.48676E-17
C163	CKb#9	CK#1	4.82247E-18
C164	Qb#4	VDD!#3	9.18065E-18
C165	VSS!#3	y#7	5.53526E-18
C166	VSS!#2	CKb#2	1.10657E-18
C167	y#2	CKb#4	2.30203E-17
C168	Qb#5	x#2	3.74613E-17
C169	QQ#2	Qb#4	5.8161E-18
C170	VDD!#5	CKb#5	9.35495E-19
C171	CKb#11	y#2	6.87092E-19
C172	VSS!#7	VDD!#3	3.71921E-18
C173	VDD!#1	Qb#4	1.13576E-17
C174	y#4	VDD!#3	2.649E-17
C175	D#1	VDD!#3	1.20046E-17
C176	VSS!#7	CKb#6	1.24617E-18
C177	CKb#6	D#2	3.30592E-18
C178	x#5	Qb#4	9.44587E-19
C179	VDD!#8	y#6	1.73972E-18
C180	CKb#5	x#2	1.84582E-18
C181	CKb#11	CK#3	9.71094E-19
C182	y#7	Qb#5	6.80982E-18
C183	y#7	VDD!#3	1.40549E-18
C184	VSS!#7	x#3	8.12809E-18
C185	y#7	CKb#6	1.52756E-18
C186	Qb#5	y#6	7.31295E-18
C187	VDD!#1	D#1	1.58313E-18
C188	CK#3	VDD!#3	1.1389E-17
C189	x#5	VDD!#2	6.15489E-18
C190	y#5	Qb#5	2.01825E-17
C191	CKb#8	Qb	1.40869E-18
C192	CKb	VDD!#3	5.81435E-18
C193	x#5	D#1	1.7358E-18
C194	VSS!#8	CKb#6	2.15836E-18
C195	y	CKb#6	8.84275E-18
C196	VDD!#8	Qb#7	1.11053E-17
C197	VSS!#6	CK#3	1.11189E-17
C198	VDD!#7	D#1	2.68507E-18
C199	y#4	CKb#5	1.04608E-17
C200	VSS!#8	VDD!#3	1.35433E-18
C201	x#2	y#6	8.6918E-18
C202	Qb#6	CKb#6	6.42297E-19
C203	x	VDD!#3	5.22082E-18
C204	CKb#4	y#3	2.12455E-17
C205	y#7	x#3	3.37313E-18
C206	VSS!#1	Qb#3	6.22751E-19
C207	x#5	CKb	5.94285E-19
C208	CKb#9	Qb#6	2.49436E-17
C209	CKb#8	D#2	2.11197E-17
C210	CKb#10	Qb#7	1.8597E-18
C211	Qb#6	VDD!#3	3.65592E-18
C212	Qb#7	x#2	7.05978E-19
C213	VDD!#7	CKb	2.34988E-18
C214	CK#2	y	2.3856E-18
C215	Qb#5	CKb#4	4.70974E-17
C216	VSS!#8	y	2.14711E-18
C217	CKb#3	D#2	5.92692E-19
C218	x#3	Qb#3	7.1372E-18
C219	CKb#5	VDD!#3	7.3019E-18
C220	CK#1	y#4	2.17562E-18
C221	x#2	VDD!#2	1.84078E-18
C222	Qb#6	y	1.77192E-18
C223	D#2	Qb#2	6.41862E-19
C224	y#6	CKb	1.02325E-18
C225	CKb#9	y#4	2.16939E-18
C226	CKb#11	VDD!#3	4.27715E-18
C227	Qb#7	x#4	1.14664E-18
C228	VSS!#5	Qb#5	1.17655E-18
C229	CKb#2	D#2	1.94921E-17
C230	VDD!#7	x	8.3698E-19
C231	QQ#2	VDD!#3	8.85329E-18
C232	y#2	CKb#6	2.58105E-18
C233	y#3	VDD!#3	9.04623E-18
C234	VSS!#2	CKb#7	1.12033E-18
C235	y#2	CKb#3	1.05415E-18
C236	VSS!#8	CK#2	2.75128E-19
C237	x#3	CKb#8	1.70023E-17
C238	VSS!#5	y#5	2.52133E-18
C239	VSS!#6	VDD!#3	5.86149E-18
C240	y#6	x	3.50673E-18
C241	CKb#9	VDD!#8	1.13148E-17
C242	VSS!#6	y	4.34963E-19
C243	y#7	VSS!#7	3.11896E-17
C244	CK#1	VDD!#3	2.25627E-17
C245	Qb#7	x	1.00949E-18
C246	CKb#10	VDD!#8	2.55809E-17
C247	VSS!#2	D	3.1782E-17
C248	D	Qb	2.82486E-18
C249	VSS!#8	D	3.59734E-19
C250	D	VSS!#1	8.59983E-18
C251	D	VDD!#3	1.24745E-17
C252	D	CKb#6	2.0252E-18
C253	VSS!#7	D	1.32108E-17
C254	D	CKb#7	9.62496E-18
C255	D	CKb#2	2.55145E-18
C256	VSS!#5	D	4.57608E-19
C257	D	CKb#8	2.47052E-18
C258	VSS!#2	D#1	1.33477E-19
C259	VDD!#8	x	3.85645E-19
C260	VDD!#2	Qb#3	4.41406E-19
C261	VDD!#7	CKb#5	2.84789E-19
C262	CKb#9	VDD!#5	4.85143E-19
C263	CKb#10	x#2	1.63839E-19
C264	x#3	CKb#3	1.6968E-19
C265	x#4	CKb#4	2.76567E-19
C266	x#3	CKb#6	4.08321E-19
C267	y#7	Qb	4.06852E-19
C268	y#4	Qb#4	4.30401E-19
C269	VSS!#3	CKb#3	1.7456E-19
C270	VSS!#6	CKb#6	1.98576E-19
C271	VSS!#8	CKb#3	2.13784E-19
C272	Qb#5	CKb	2.21643E-19
C273	CKb#2	Qb	2.48552E-19
C274	Qb#5	CKb#5	3.1228E-19
C275	y#5	CK#2	9.2257E-20
C276	Qb#7	D#1	1.37498E-19
C277	Qb#3	D	1.44789E-19
C278	Qb#5	D#2	2.24774E-19
C279	CKb#2	y#5	2.24624E-19
C280	CKb#11	y	2.33011E-19
C281	y#7	CKb#8	2.60551E-19
C282	CK	VSS!	1.47273E-17
C283	D	VSS!	1.32425E-18
C284	a	VSS!	1.61818E-19
C285	b	VSS!	4.47876E-19
C286	c	VSS!	4.3593E-19
C287	Qb#4	VSS!	5.4082E-19
C288	D#1	VSS!	1.04608E-18
C289	CKb	VSS!	6.20423E-19
C290	x	VSS!	3.57299E-19
C291	CKb#5	VSS!	3.34645E-19
C292	y#3	VSS!	3.69084E-19
C293	CK#1	VSS!	1.34988E-18
C294	Qb	VSS!	1.71327E-19
C295	CKb#7	VSS!	5.83996E-19
C296	D#2	VSS!	1.8764E-18
C297	CKb#6	VSS!	6.99772E-20
C298	y	VSS!	2.62975E-19
C299	CK#2	VSS!	1.37347E-18
C300	Qb#3	VSS!	7.14856E-20
C301	CKb#8	VSS!	5.96994E-19
C302	CKb#2	VSS!	2.83053E-19
C303	x#2	VSS!	3.3787E-19
C304	y#4	VSS!	6.04247E-19
C305	CK#3	VSS!	2.47691E-17
C306	VDD!#3	VSS!	7.10883E-18
C307	QQ#2	VSS!	1.72634E-19
C308	VDD!#1	VSS!	4.56092E-19
C309	x#5	VSS!	7.45468E-20
C310	VDD!#7	VSS!	4.74766E-19
C311	y#6	VSS!	9.81109E-19
C312	Qb#7	VSS!	7.85198E-19
C313	VDD!#8	VSS!	1.66868E-19
C314	CKb#10	VSS!	2.10828E-19
C315	VDD!#6	VSS!	1.45146E-19
C316	QQ#1	VSS!	8.82983E-19
C317	y#7	VSS!	1.72574E-18
C318	Qb#6	VSS!	1.51769E-18
C319	y#2	VSS!	1.58591E-19
C320	CKb#3	VSS!	2.61707E-19
C321	Qb#2	VSS!	6.55779E-20
C322	CKb#9	VSS!	1.55602E-18
C323	Qb#5	VSS!	1.00669E-18
C324	x#4	VSS!	2.23203E-19
C325	VDD!#2	VSS!	2.34777E-19
C326	VDD!#5	VSS!	2.19091E-19
*
*
.ENDS TSPCFF
*
