
*.GLOBAL VSS! VDD!

.subckt TSPCFF  CK D QQ VDD! VSS! l0=4.5e-08 wn0=145e-9 wp0=214e-9
*.PININFO CK:B D:B QQ:B VDD!:B VSS!:B
Xclkinv  VDD! VSS! CK CKb INV WN=145e-9 WP=215e-9
Xqinv  VDD! VSS! Qb QQ INV WN=260e-9 WP=390e-9
Mmp1  x D VDD! VDD! g45p1svt l="pPar("l0")" w="pPar("wp0")" fw="pPar("wp0")" nf=1
Mmp2  b CKb VDD! VDD! g45p1svt l="pPar("l0")" w="pPar("wp0")" fw="pPar("wp0")" nf=1
Mmp3  c y VDD! VDD! g45p1svt l="pPar("l0")" w="pPar("wp0")" fw="pPar("wp0")" nf=1
Mmn4  x CKb a VSS! g45n1svt l="pPar("l0")" w="pPar("wn0")" fw="pPar("wn0")" nf=1
Mmp4  y x b VDD! g45p1svt l="pPar("l0")" w="pPar("wp0")" fw="pPar("wp0")" nf=1
Mmp5  Qb CKb c VDD! g45p1svt l="pPar("l0")" w="pPar("wp0")" fw="pPar("wp0")" nf=1
Mmn1  a D VSS! VSS! g45n1svt l="pPar("l0")" w="pPar("wn0")" fw="pPar("wn0")" nf=1
Mmn2  y CKb VSS! VSS! g45n1svt l="pPar("l0")" w="pPar("wn0")" fw="pPar("wn0")" nf=1
Mmn3  Qb y VSS! VSS! g45n1svt l="pPar("l0")" w="pPar("wn0")" fw="pPar("wn0")" nf=1
.ends

.subckt INV  VDD! VSS! A Y WN=145e-9 WP=214e-9
*.PININFO VDD!:B VSS!:B A:B Y:B
Mmn0  Y A VSS! VSS! g45n1svt l=4.5e-08 w="pPar("WN")" fw="pPar("WN")" nf=1
Mmp0  Y A VDD! VDD! g45p1svt l=4.5e-08 w="pPar("WP")" fw="pPar("WP")" nf=1
.ends
